US09126979B2
[3-(3-Dibutylcarbamoyl-5-methyl-pyrazol-1-yl)-4-((S)-3-hydroxymethyl-3,4-dihydro-1H-isoquinoline-2-carbonyl)-phenoxy]-acetic acid ethyl ester
A solution of 1-[5-hydroxy-2-((S)-3-hydroxymethyl-3,4-dihydro-1H-isoquinoline-2-carbonyl)-phenyl]-5-methyl-1H-pyrazole-3-carboxylic acid dibutylamide (100 mg, 0.19 mmol) and potassium tert-butoxide (0.21 mL, 1 M, 0.21 mmol) in tetrahydrofuran (2 mL) was stirred at ambient temperature for 10 minutes. Ethyl 2-iodoacetate (0.027 mL, 0.23 mmol) was added and the mixture was stirred at ambient temperature for 1 hour. Ethyl acetate and aqueous HCl solution was added until the pH was about 7. The organic layer was dried over sodium sulfate and removed in vacuo. The crude material was purified by eluting through a short pad of silica gel column to afford the title compound (100 mg, 86% yield). MS (ESI) [m/e, (M+H)+]=605.3. 1H NMR (400 MHz, chloroform-d) δ ppm 6.30-7.41 (m, 8H), 2.68-5.46 (m, 18H), 2.20-2.61 (m, 3H), 0.70-1.74 (m, 15H).

reactant | 1-[5-hydroxy-2-((S)-3-hydroxymethyl-3,4-dihydro-1H-isoquinoline-2-carbonyl)-phenyl]-5-methyl-1H-pyrazole-3-carboxylic acid dibutylamide | 0.19 mmol, 100 mg | C(CCC)N(C(=O)C1=NN(C(=C1)C)C1=C(C=CC(=C1)O)C(=O)N1CC2=CC=CC=C2C[C@H]1CO)CCCC | C30H38N4O4
reactant | potassium tert-butoxide | 0.21 mmol, 1 M, 0.21 mL | CC(C)([O-])C.[K+]
reactant | Ethyl 2-iodoacetate | 0.23 mmol, 0.027 mL | ICC(=O)OCC | C4H7IO2
reactant | HCl | Cl | ClH
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [3-(3-Dibutylcarbamoyl-5-methyl-pyrazol-1-yl)-4-((S)-3-hydroxymethyl-3,4-dihydro-1H-isoquinoline-2-carbonyl)-phenoxy]-acetic acid ethyl ester | 100 mg, 86% yield | C(C)OC(COC1=CC(=C(C=C1)C(=O)N1CC2=CC=CC=C2C[C@H]1CO)N1N=C(C=C1C)C(N(CCCC)CCCC)=O)=O | C34H44N4O6
